US07064226B2
The filtered catalyst above was added to 1-phenyl-1-propanol (0.16 g) in toluene (1 ml). The same procedure as above was followed to afford β-methyl styrene as a colourless oil (0.13 g, 92%).

reactant | 1-phenyl-1-propanol | 0.16 g | C1(=CC=CC=C1)C(CC)O | C9H12O
solvent | toluene | 1 ml | C1(=CC=CC=C1)C | C7H8
product | β-methyl styrene | 0.13 g, 92% | CC=CC1=CC=CC=C1 | C9H10
